US04021441
In the manner given in Example 3, a solution of potassium hydroxide and (cyclopropylmethyl)amine hydrochloride is treated with a solution of 1-(chloromethyl)-6-(o-chlorophenyl)-4-H-s-triazolo[4,3-a][1,4]benzodiazepine and potassium iodide in tetrahydrofuran to give 1-[[(cyclopropylmethyl)amino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | potassium hydroxide | [OH-].[K+]
reactant | (cyclopropylmethyl)amine hydrochloride | Cl.C1(CC1)CN
reactant | 1-(chloromethyl)-6-(o-chlorophenyl)-4-H-s-triazolo[4,3-a][1,4]benzodiazepine | ClCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1 | C17H12Cl2N4
reactant | potassium iodide | [I-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[[(cyclopropylmethyl)amino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C1(CC1)CNCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1 | C21H20ClN5
